US07423181B2
2-(2-Dimethylamino-ethoxy)-5-pyridin-2-yl-benzaldehyde
General procedure G using 4-(2-dimethylamino-ethoxy)-3-formyl-benzeneboronic acid and 2-bromo-pyridine gave the title product as yellow oil in 40% yield. 1H-NMR (CDCl3) δ 10.47 (s, 1H), 8.60(dt, 1H), 8.34 (d, 1H), 8.26 (dd, 1H), 7.69-7.67 (m, 2H), 7.17-7.14 (m, 1H), 7.05 (d, 1H), 4.24 (t, 2H), 2.83 (t, 2H), 2.36 (s, 6H).

reactant | 4-(2-dimethylamino-ethoxy)-3-formyl-benzeneboronic acid | CN(CCOC1=C(C=C(C=C1)B(O)O)C=O)C | C11H16BNO4
reactant | 2-bromo-pyridine | BrC1=NC=CC=C1 | C5H4BrN
product | 2-(2-Dimethylamino-ethoxy)-5-pyridin-2-yl-benzaldehyde | 40% yield | CN(CCOC1=C(C=O)C=C(C=C1)C1=NC=CC=C1)C | C16H18N2O2
